US07385082B2
1-[4-chlorophenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one (Compound 1)
This compound was synthesized from 4-chloroacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described hereinabove.

reactant | 4-chloroacetophenone | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-[4-chlorophenyl]-3-[3,5-dimethyl-4-hydroxyphenyl]prop-2-en-1-one | ClC1=CC=C(C=C1)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C17H15ClO2
